US08044213B2
A mixture of 0.023 g (0.05 mmole) of 2-[6-(4-chloro-butoxy)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (I.37a), 0.5 mL of dimethylformamide, 0.035 g (0.25 mmole) of potassium carbonate, 0.001 g of potassium iodide and 0.017 mL (0.15 mmole) of 1-methyl-piperazine was stirred at 100 degrees for 3 hours. The mixture was concentrated under reduced pressure, and diluted with 20 mL of water. The precipitate was collected by filtration and the solid triturated with diethyl ether to give 0.018 g of 4-(3-chloro-phenyl)-2-{6-[4-(4-methyl-piperazin-1-yl)-butoxy]-benzoimidazol-1-yl}-thiazole-5-carboxylic acid amide (I.37) as a white powder. MH+/Z=525

reactant | 2-[6-(4-chloro-butoxy)-benzoimidazol-1-yl]-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 0.05 mmole, 0.023 g | ClCCCCOC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)N)C1 | C21H18Cl2N4O2S
reactant | potassium carbonate | 0.25 mmole, 0.035 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.001 g | [I-].[K+]
reactant | 1-methyl-piperazine | 0.15 mmole, 0.017 mL | CN1CCNCC1 | C5H12N2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-{6-[4-(4-methyl-piperazin-1-yl)-butoxy]-benzoimidazol-1-yl}-thiazole-5-carboxylic acid amide | 0.018 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)OCCCCN2CCN(CC2)C | C26H29ClN6O2S
